US20010027196A1
2-Amino-4-ethoxy-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile and sodium ethylate in ethanol. Anal. found C 57.39%, H 4.38%, N 24.34%. C 11H10N4O2 requires C 57.43%, H 4.47%, N 24.42%.

reactant | 2-amino-4-(2-furyl)-6-(methylthio)-5-pyrimidinecarbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)SC | C10H8N4OS
reactant | sodium ethylate | CC[O-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-Amino-4-ethoxy-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC)C#N)C=1OC=CC1 | C11H10N4O2
